US07241788B2
Preparation of 2-(4-Chloro-phenyl)-1-(2-chloro-phenyl)-5-cyclopentyl-1,5,6,7-tetrahydro-imidazo[4,5-c]pyridin-4-one (5A-1):
A mixture of 2-(4-chloro-phenyl)-1-(2-chloro-phenyl)-5-(2-cyclopentylamino-ethyl)-1H-imidazole-4-carboxylic acid I-5j (20 mg, 0.046 mmol), EDC (19 mg, 0.1 mmol), HOAt (13 mg, 0.1 mmol), and triethylamine (14 μl, 0.1 mmol) in 1,2-dichloroethane (20 ml) was stirred for 17 hours at room temperature. The reaction mixture was washed with sat'd aq NaHCO3 and the aqueous bicarbonate solution was back extracted once with CH2Cl2. The combined CH2Cl2 extracts were dried and concentrated in vacuo. The residue was dissolved in diethyl ether (1 ml) and several drops of 4M HCl in dioxane were added. The organic solution was decanted and additional ether was added. The mixture was stirred for several minutes and the solvent decanted again. The residue was dried under vacuum to give the desired produce 5A-1 as a colorless solid: +APCI MS (M+1) 426.3; 1H NMR (CDCl3): δ 7.62-7.57 (m, 1H), 7.53-7.47 (m, 1H), 7.44-7.39 (m, 1H), 7.37-7.33 (m, 2H), 7.32-7.28 (m, 1H), 7.24-7.19 (m, 2H), 5.16-5.06 (m, 1H), 3.56-3.50 (m, 2H), 3.26-3.17 (m, 2H), 2.71-2.56 (m, 2H), 1.92-1.83 (m, 2H), 1.76-1.46 (m, 4H).

reactant | 2-(4-chloro-phenyl)-1-(2-chloro-phenyl)-5-(2-cyclopentylamino-ethyl)-1H-imidazole-4-carboxylic acid | 0.046 mmol, 20 mg | ClC1=CC=C(C=C1)C=1N(C(=C(N1)C(=O)O)CCNC1CCCC1)C1=C(C=CC=C1)Cl | C23H23Cl2N3O2
reactant | HOAt | 0.1 mmol, 13 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 0.1 mmol, 14 μl | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | EDC | 0.1 mmol, 19 mg
product | 2-(4-Chloro-phenyl)-1-(2-chloro-phenyl)-5-cyclopentyl-1,5,6,7-tetrahydro-imidazo[4,5-c]pyridin-4-one | ClC1=CC=C(C=C1)C=1N(C2=C(C(N(CC2)C2CCCC2)=O)N1)C1=C(C=CC=C1)Cl | C23H21Cl2N3O
